### ISSUE TITLE
Long proof terms when rewrites require occs

### ISSUE THREAD

**Issue by goens** [nomeata/lean-calcify#3]
Here's another example found from the equational project:

The baseline is:

```lean
import Egg
import equational_theories.EquationalResult

set_option egg.explosion true in
theorem helper_lemma (G: Type _) [Mul G] (h: ∀ x y z : G, x = (y * x) * ((x * z) * z)) : ∀ x y z : G, x * (y * ((y * z) * z)) = (x * y) * y := by
    egg? [*, h _ (_ * _) _; h]
```

This yields the calcified proof (suggestion):

```lean
  intro x y z
  calc
    x * (y * (y * z * z))
    _ = x * y * x * (x * y * y) * (y * (y * z * z)) :=
      (eq_of_heq
        ((fun α α' e_1 ↦
            Eq.ndrec (motive := fun α' ↦
              ∀ (β β' : Type u_1),
                β = β' →
                  ∀ (γ γ' : Type u_1),
                    γ = γ' →
                      ∀ (self : HMul α β γ) (self' : HMul α' β' γ'),
                        HEq self self' →
                          ∀ (a : α) (a' : α'),
                            HEq a a' → ∀ (a_1 : β) (a'_1 : β'), HEq a_1 a'_1 → HEq (a * a_1) (a' * a'_1))
              (fun β β' e_2 ↦
                Eq.ndrec (motive := fun β' ↦
                  ∀ (γ γ' : Type u_1),
                    γ = γ' →
                      ∀ (self : HMul α β γ) (self' : HMul α β' γ'),
                        HEq self self' →
                          ∀ (a a' : α), HEq a a' → ∀ (a_1 : β) (a'_1 : β'), HEq a_1 a'_1 → HEq (a * a_1) (a' * a'_1))
                  (fun γ γ' e_3 ↦
                    Eq.ndrec (motive := fun γ' ↦
                      ∀ (self : HMul α β γ) (self' : HMul α β γ'),
                        HEq self self' →
                          ∀ (a a' : α), HEq a a' → ∀ (a_1 a'_1 : β), HEq a_1 a'_1 → HEq (a * a_1) (a' * a'_1))
                      (fun self self' e_4 ↦
                        Eq.ndrec (motive := fun self' ↦
                          ∀ (a a' : α), HEq a a' → ∀ (a_1 a'_1 : β), HEq a_1 a'_1 → HEq (a * a_1) (a' * a'_1))
                          (fun a a' e_5 ↦
                            Eq.ndrec (motive := fun a' ↦ ∀ (a_1 a'_1 : β), HEq a_1 a'_1 → HEq (a * a_1) (a' * a'_1))
                              (fun a_1 a' e_6 ↦ eq_of_heq e_6 ▸ HEq.refl (a * a_1)) (eq_of_heq e_5))
                          (eq_of_heq e_4))
                      e_3)
                  e_2)
              e_1)
          G G (Eq.refl G) G G (Eq.refl G) G G (Eq.refl G) instHMul instHMul (HEq.refl instHMul) x
          (x * y * x * (x * y * y)) (heq_of_eq (h x (x * y) y)) (y * (y * z * z)) (y * (y * z * z))
          (HEq.refl (y * (y * z * z)))))
    _ = x * y * x * (x * y * y) * (x * y * y * (y * z * z) * (y * z * z)) :=
      (eq_of_heq
        ((fun α α' e_1 ↦
            Eq.ndrec (motive := fun α' ↦
              ∀ (β β' : Type u_1),
                β = β' →
                  ∀ (γ γ' : Type u_1),
                    γ = γ' →
                      ∀ (self : HMul α β γ) (self' : HMul α' β' γ'),
                        HEq self self' →
                          ∀ (a : α) (a' : α'),
                            HEq a a' → ∀ (a_1 : β) (a'_1 : β'), HEq a_1 a'_1 → HEq (a * a_1) (a' * a'_1))
              (fun β β' e_2 ↦
                Eq.ndrec (motive := fun β' ↦
                  ∀ (γ γ' : Type u_1),
                    γ = γ' →
                      ∀ (self : HMul α β γ) (self' : HMul α β' γ'),
                        HEq self self' →
                          ∀ (a a' : α), HEq a a' → ∀ (a_1 : β) (a'_1 : β'), HEq a_1 a'_1 → HEq (a * a_1) (a' * a'_1))
                  (fun γ γ' e_3 ↦
                    Eq.ndrec (motive := fun γ' ↦
                      ∀ (self : HMul α β γ) (self' : HMul α β γ'),
                        HEq self self' →
                          ∀ (a a' : α), HEq a a' → ∀ (a_1 a'_1 : β), HEq a_1 a'_1 → HEq (a * a_1) (a' * a'_1))
                      (fun self self' e_4 ↦
                        Eq.ndrec (motive := fun self' ↦
                          ∀ (a a' : α), HEq a a' → ∀ (a_1 a'_1 : β), HEq a_1 a'_1 → HEq (a * a_1) (a' * a'_1))
                          (fun a a' e_5 ↦
                            Eq.ndrec (motive := fun a' ↦ ∀ (a_1 a'_1 : β), HEq a_1 a'_1 → HEq (a * a_1) (a' * a'_1))
                              (fun a_1 a' e_6 ↦ eq_of_heq e_6 ▸ HEq.refl (a * a_1)) (eq_of_heq e_5))
                          (eq_of_heq e_4))
                      e_3)
                  e_2)
              e_1)
          G G (Eq.refl G) G G (Eq.refl G) G G (Eq.refl G) instHMul instHMul (HEq.refl instHMul)
          (x * y * x * (x * y * y)) (x * y * x * (x * y * y)) (HEq.refl (x * y * x * (x * y * y))) (y * (y * z * z))
          (x * y * y * (y * z * z) * (y * z * z))
          ((fun α α' e_1 ↦
              Eq.ndrec (motive := fun α' ↦
                ∀ (β β' : Type u_1),
                  β = β' →
                    ∀ (γ γ' : Type u_1),
                      γ = γ' →
                        ∀ (self : HMul α β γ) (self' : HMul α' β' γ'),
                          HEq self self' →
                            ∀ (a : α) (a' : α'),
                              HEq a a' → ∀ (a_1 : β) (a'_1 : β'), HEq a_1 a'_1 → HEq (a * a_1) (a' * a'_1))
                (fun β β' e_2 ↦
                  Eq.ndrec (motive := fun β' ↦
                    ∀ (γ γ' : Type u_1),
                      γ = γ' →
                        ∀ (self : HMul α β γ) (self' : HMul α β' γ'),
                          HEq self self' →
                            ∀ (a a' : α), HEq a a' → ∀ (a_1 : β) (a'_1 : β'), HEq a_1 a'_1 → HEq (a * a_1) (a' * a'_1))
                    (fun γ γ' e_3 ↦
                      Eq.ndrec (motive := fun γ' ↦
                        ∀ (self : HMul α β γ) (self' : HMul α β γ'),
                          HEq self self' →
                            ∀ (a a' : α), HEq a a' → ∀ (a_1 a'_1 : β), HEq a_1 a'_1 → HEq (a * a_1) (a' * a'_1))
                        (fun self self' e_4 ↦
                          Eq.ndrec (motive := fun self' ↦
                            ∀ (a a' : α), HEq a a' → ∀ (a_1 a'_1 : β), HEq a_1 a'_1 → HEq (a * a_1) (a' * a'_1))
                            (fun a a' e_5 ↦
                              Eq.ndrec (motive := fun a' ↦ ∀ (a_1 a'_1 : β), HEq a_1 a'_1 → HEq (a * a_1) (a' * a'_1))
                                (fun a_1 a' e_6 ↦ eq_of_heq e_6 ▸ HEq.refl (a * a_1)) (eq_of_heq e_5))
                            (eq_of_heq e_4))
                        e_3)
                    e_2)
                e_1)
            G G (Eq.refl G) G G (Eq.refl G) G G (Eq.refl G) instHMul instHMul (HEq.refl instHMul) y
            (x * y * y * (y * z * z)) (heq_of_eq (h y (x * y) z)) (y * z * z) (y * z * z) (HEq.refl (y * z * z)))))
    _ = x * y * y := Eq.symm (h (x * y * y) (x * y * x) (y * z * z))
```

Through manual inspection, this could be a much nicer alternative output using `rw` with occs:
```lean
    intro x y z
    calc
      x * (y * ((y * z) * z))
      _ = (((x * y) * x) * ((x * y) * y)) * (y * ((y * z) * z)) := by rw (config := {occs := .pos [1]}) [h x (x * y) y]
      _ = (((x * y) * x) * ((x * y) * y)) * ((((x * y) * y) * ((y * z) * z)) * ((y * z) * z)) := by rw (config := {occs := .pos [4]}) [h y (x * y) z]
      _ = (x * y) * y := Eq.symm (h ((x * y) * y) ((x * y) * x) ((y * z) * z))
```

Notable is that we need to manually specify which occurrences to rewrite here.
